** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/toplevel_dummy.sch
.subckt toplevel_dummy ena clk rst_n ui_in[7] ui_in[6] ui_in[5] ui_in[4] ui_in[3] ui_in[2] ui_in[1] ui_in[0] uio_in[7] uio_in[6]
+ uio_in[5] uio_in[4] uio_in[3] uio_in[2] uio_in[1] uio_in[0] uo_out[7] uo_out[6] uo_out[5] uo_out[4] uo_out[3] uo_out[2] uo_out[1] uo_out[0]
+ uio_out[7] uio_out[6] uio_out[5] uio_out[4] uio_out[3] uio_out[2] uio_out[1] uio_out[0] uio_oe[7] uio_oe[6] uio_oe[5] uio_oe[4] uio_oe[3]
+ uio_oe[2] uio_oe[1] uio_oe[0] VAPWR VDPWR VGND ua[5] ua[4] ua[3] ua[2] ua[1] ua[0] ua[7] ua[6]
*.PININFO ena:I clk:I rst_n:I ui_in[7:0]:I uio_in[7:0]:I uo_out[7:0]:O uio_out[7:0]:O uio_oe[7:0]:O VAPWR:B VDPWR:B VGND:B
*+ ua[5:0]:B ua[7:6]:B
* noconn ena
* noconn clk
* noconn rst_n
* noconn uio_in[7:0]
* noconn ua[7:6]
xdi[9] VAPWR VGND net1[9] VGND inverter
xdi[8] VAPWR VGND net1[8] VGND inverter
xdi[7] VAPWR VGND net1[7] VGND inverter
xdi[6] VAPWR VGND net1[6] VGND inverter
xdi[5] VAPWR VGND net1[5] VGND inverter
xdi[4] VAPWR VGND net1[4] VGND inverter
xdi[3] VAPWR VGND net1[3] VGND inverter
xdi[2] VAPWR VGND net1[2] VGND inverter
xdi[1] VAPWR VGND net1[1] VGND inverter
xdi[0] VAPWR VGND net1[0] VGND inverter
xdummy[3] VAPWR VGND VGND VGND VGND passgate
xdummy[2] VAPWR VGND VGND VGND VGND passgate
xdummy[1] VAPWR VGND VGND VGND VGND passgate
xdummy[0] VAPWR VGND VGND VGND VGND passgate
XRdummy[1] net2[1] net3[1] VGND sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
XRdummy[0] net2[0] net3[0] VGND sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
x1 uo_out[7] uo_out[6] uo_out[5] uo_out[4] uo_out[3] uo_out[2] uo_out[1] uo_out[0] ena clk uio_out[7] uio_out[6] uio_out[5]
+ uio_out[4] uio_out[3] uio_out[2] uio_out[1] uio_out[0] rst_n uio_oe[7] uio_oe[6] uio_oe[5] uio_oe[4] uio_oe[3] uio_oe[2] uio_oe[1] uio_oe[0]
+ ui_in[7] ui_in[6] ui_in[5] ui_in[4] ui_in[3] ui_in[2] ui_in[1] ui_in[0] uio_in[7] uio_in[6] uio_in[5] uio_in[4] uio_in[3] uio_in[2]
+ uio_in[1] uio_in[0] ua[5] ua[4] ua[3] ua[2] ua[1] ua[0] ua[7] ua[6] VAPWR VDPWR VGND toplevel
.ends

* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/inverter.sym
** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/inverter.sch
.subckt inverter VDD IN OUT VSS
*.PININFO VSS:B VDD:B IN:I OUT:O
XM1 OUT IN VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.65 nf=1 m=1
XM2 OUT IN VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
.ends


* expanding   symbol:  passgate.sym # of pins=5
** sym_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/passgate.sym
** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/passgate.sch
.subckt passgate VDD UA UB EN VSS
*.PININFO VSS:B VDD:B UA:B UB:B EN:I
XM1 UA EN UB VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.65 nf=1 m=1
XM2 UA net1 UB VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
x1 VDD EN net1 VSS inverter
.ends


* expanding   symbol:  toplevel.sym # of pins=13
** sym_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/toplevel.sym
** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/toplevel.sch
.subckt toplevel uo_out[7] uo_out[6] uo_out[5] uo_out[4] uo_out[3] uo_out[2] uo_out[1] uo_out[0] ena clk uio_out[7] uio_out[6]
+ uio_out[5] uio_out[4] uio_out[3] uio_out[2] uio_out[1] uio_out[0] rst_n uio_oe[7] uio_oe[6] uio_oe[5] uio_oe[4] uio_oe[3] uio_oe[2]
+ uio_oe[1] uio_oe[0] ui_in[7] ui_in[6] ui_in[5] ui_in[4] ui_in[3] ui_in[2] ui_in[1] ui_in[0] uio_in[7] uio_in[6] uio_in[5] uio_in[4]
+ uio_in[3] uio_in[2] uio_in[1] uio_in[0] ua[5] ua[4] ua[3] ua[2] ua[1] ua[0] ua[7] ua[6] VAPWR VDPWR VGND
*.PININFO ena:I clk:I rst_n:I ui_in[7:0]:I uio_in[7:0]:I uo_out[7:0]:O uio_out[7:0]:O uio_oe[7:0]:O VAPWR:B VDPWR:B VGND:B
*+ ua[5:0]:B ua[7:6]:B
x1 VAPWR ua[0] ua[2] ua[1] VGND hybrid
x2 VAPWR ua[5] ua[3] ui_in_3v3[3] ui_in_3v3[2] ui_in_3v3[1] ui_in_3v3[0] ua[4] VGND hybrid_ctrl
x3 VAPWR ua[2] ua[3] ui_in_3v3[4] VGND passgate
xsi[7] VAPWR VDPWR ui_in_3v3[7] ui_in[7] VGND level_shifter
xsi[6] VAPWR VDPWR ui_in_3v3[6] ui_in[6] VGND level_shifter
xsi[5] VAPWR VDPWR ui_in_3v3[5] ui_in[5] VGND level_shifter
xsi[4] VAPWR VDPWR ui_in_3v3[4] ui_in[4] VGND level_shifter
xsi[3] VAPWR VDPWR ui_in_3v3[3] ui_in[3] VGND level_shifter
xsi[2] VAPWR VDPWR ui_in_3v3[2] ui_in[2] VGND level_shifter
xsi[1] VAPWR VDPWR ui_in_3v3[1] ui_in[1] VGND level_shifter
xsi[0] VAPWR VDPWR ui_in_3v3[0] ui_in[0] VGND level_shifter
* noconn ena
* noconn clk
* noconn rst_n
* noconn uio_in[7:0]
* noconn ua[7:6]
xso[7] VDPWR VAPWR uo_out[7] decoder_out[7] VGND level_shifter
xso[6] VDPWR VAPWR uo_out[6] decoder_out[6] VGND level_shifter
xso[5] VDPWR VAPWR uo_out[5] decoder_out[5] VGND level_shifter
xso[4] VDPWR VAPWR uo_out[4] decoder_out[4] VGND level_shifter
xso[3] VDPWR VAPWR uo_out[3] decoder_out[3] VGND level_shifter
xso[2] VDPWR VAPWR uo_out[2] decoder_out[2] VGND level_shifter
xso[1] VDPWR VAPWR uo_out[1] decoder_out[1] VGND level_shifter
xso[0] VDPWR VAPWR uo_out[0] decoder_out[0] VGND level_shifter
xsio[7] VDPWR VAPWR uio_out[7] decoder_out[15] VGND level_shifter
xsio[6] VDPWR VAPWR uio_out[6] decoder_out[14] VGND level_shifter
xsio[5] VDPWR VAPWR uio_out[5] decoder_out[13] VGND level_shifter
xsio[4] VDPWR VAPWR uio_out[4] decoder_out[12] VGND level_shifter
xsio[3] VDPWR VAPWR uio_out[3] decoder_out[11] VGND level_shifter
xsio[2] VDPWR VAPWR uio_out[2] decoder_out[10] VGND level_shifter
xsio[1] VDPWR VAPWR uio_out[1] decoder_out[9] VGND level_shifter
xsio[0] VDPWR VAPWR uio_out[0] decoder_out[8] VGND level_shifter
x4 VAPWR ui_in_3v3[7] ui_in_3v3[6] ui_in_3v3[5] ui_in_3v3[4] decoder_out[15] decoder_out[14] decoder_out[13] decoder_out[12]
+ decoder_out[11] decoder_out[10] decoder_out[9] decoder_out[8] decoder_out[7] decoder_out[6] decoder_out[5] decoder_out[4] decoder_out[3]
+ decoder_out[2] decoder_out[1] decoder_out[0] VGND decoder4_signed
xtie[7] VDPWR uio_oe[7] VGND tie_high
xtie[6] VDPWR uio_oe[6] VGND tie_high
xtie[5] VDPWR uio_oe[5] VGND tie_high
xtie[4] VDPWR uio_oe[4] VGND tie_high
xtie[3] VDPWR uio_oe[3] VGND tie_high
xtie[2] VDPWR uio_oe[2] VGND tie_high
xtie[1] VDPWR uio_oe[1] VGND tie_high
xtie[0] VDPWR uio_oe[0] VGND tie_high
.ends


* expanding   symbol:  hybrid.sym # of pins=5
** sym_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/hybrid.sym
** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/hybrid.sch
.subckt hybrid VDD IN LINE OUT VSS
*.PININFO VDD:B VSS:B IN:I OUT:O LINE:B
x1 VDD OUT LINE net1 VSS opamp
XR1 IN LINE VSS sky130_fd_pr__res_xhigh_po_0p35 L=256 mult=1 m=1
XR2 IN net1 VSS sky130_fd_pr__res_xhigh_po_0p35 L=256 mult=1 m=1
XR3 net1 OUT VSS sky130_fd_pr__res_xhigh_po_0p35 L=256 mult=1 m=1
.ends


* expanding   symbol:  hybrid_ctrl.sym # of pins=6
** sym_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/hybrid_ctrl.sym
** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/hybrid_ctrl.sch
.subckt hybrid_ctrl VDD IN LINE D3 D2 D1 D0 OUT VSS
*.PININFO VDD:B VSS:B IN:I OUT:O LINE:B D[3..0]:I
x1 VDD OUT LINE net1 VSS opamp
XR1 IN LINE VSS sky130_fd_pr__res_xhigh_po_0p35 L=256 mult=1 m=1
x2 VDD D3 D2 D1 D0 IN net1 OUT VSS digipot
.ends


* expanding   symbol:  level_shifter.sym # of pins=5
** sym_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/level_shifter.sym
** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/level_shifter.sch
.subckt level_shifter OVDD IVDD OUT IN VSS
*.PININFO OVDD:B VSS:B IN:I OUT:O IVDD:B
XM21 net1 IN VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.65 nf=1 m=1
XM25 net1 OUT OVDD OVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM1 OUT net1 OVDD OVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM2 OUT IN_B VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.65 nf=1 m=1
x1 IVDD IN IN_B VSS inverter
.ends


* expanding   symbol:  decoder4_signed.sym # of pins=4
** sym_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/decoder4_signed.sym
** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/decoder4_signed.sch
.subckt decoder4_signed VDD D3 D2 D1 D0 U15 U14 U13 U12 U11 U10 U9 U8 U7 U6 U5 U4 U3 U2 U1 U0 VSS
*.PININFO VDD:B VSS:B U[15..0]:O D[3..0]:I
x1 VDD D0 D3 net4 net3 net1 net2 VSS VDD decoder2
x2 VDD D2 D1 U14 U12 U10 U8 VSS net2 decoder2
x3 VDD D2 D1 U6 U4 U2 U0 VSS net1 decoder2
x4 VDD D2 D1 U15 U13 U11 U9 VSS net3 decoder2
x5 VDD D2 D1 U7 U5 U3 U1 VSS net4 decoder2
.ends


* expanding   symbol:  tie_high.sym # of pins=3
** sym_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/tie_high.sym
** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/tie_high.sch
.subckt tie_high VDD HI VSS
*.PININFO VSS:B VDD:B HI:O
XM1 net1 net1 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.65 nf=1 m=1
XM2 HI net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
.ends


* expanding   symbol:  opamp.sym # of pins=5
** sym_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/opamp.sym
** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/opamp.sch
.subckt opamp VDD OUT P N VSS
*.PININFO VDD:B VSS:B P:I N:I OUT:O
XR1 net2 VDD VSS sky130_fd_pr__res_xhigh_po_0p35 L=25 mult=1 m=1
XM1 net2 net2 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM7 net1 net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 m=2
XM8 OUT net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 m=2
XM4 net6 net2 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM5 net1 P net6 VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM6 OUT N net6 VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM2 net5 net2 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM9 net4 net5 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 m=2
XM3 VDD net5 net5 VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 m=2
XM10 net3 P net4 VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 m=2
XM11 OUT N net4 VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 m=2
XM12 net3 net3 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
XM13 OUT net3 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1 W=2 nf=1 m=2
.ends


* expanding   symbol:  digipot.sym # of pins=6
** sym_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/digipot.sym
** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/digipot.sch
.subckt digipot VDD D3 D2 D1 D0 A W B VSS
*.PININFO VDD:B VSS:B A:B B:B W:B D[3..0]:I
x1 VDD D3 D2 D1 D0 net1[15] net1[14] net1[13] net1[12] net1[11] net1[10] net1[9] net1[8] net1[7] net1[6] net1[5] net1[4] net1[3]
+ net1[2] net1[1] net1[0] VSS decoder4_signed
x2 VDD net1[15] net1[14] net1[13] net1[12] net1[11] net1[10] net1[9] net1[8] net1[7] net1[6] net1[5] net1[4] net1[3] net1[2]
+ net1[1] net1[0] A W B VSS digipot_1hot
.ends


* expanding   symbol:  decoder2.sym # of pins=9
** sym_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/decoder2.sym
** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/decoder2.sch
.subckt decoder2 VDD D1 D0 U3 U2 U1 U0 VSS EN
*.PININFO VDD:B VSS:B D0:I D1:I U0:O U1:O U2:O U3:O EN:I
x6 VDD net5 net4 U0 net3 VSS nor3
x7 VDD net5 net1 U1 net3 VSS nor3
x8 VDD net2 net4 U2 net3 VSS nor3
x9 VDD net2 net1 U3 net3 VSS nor3
x1 VDD EN net3 VSS inverter
x2 VDD D0 net1 VSS inverter
x3 VDD net1 net4 VSS inverter
x4 VDD D1 net2 VSS inverter
x5 VDD net2 net5 VSS inverter
.ends


* expanding   symbol:  digipot_1hot.sym # of pins=6
** sym_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/digipot_1hot.sym
** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/digipot_1hot.sch
.subckt digipot_1hot VDD U15 U14 U13 U12 U11 U10 U9 U8 U7 U6 U5 U4 U3 U2 U1 U0 A W B VSS
*.PININFO VDD:B VSS:B A:B B:B W:B U[15..0]:I
XR1 A net1 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
XR2 net1 net2 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
XR3 net2 net3 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
XR4 net3 net4 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
XR5 net4 net5 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
x1 VDD A W U0 VSS passgate
x2 VDD net1 W U1 VSS passgate
x3 VDD net2 W U2 VSS passgate
x4 VDD net3 W U3 VSS passgate
x5 VDD net4 W U4 VSS passgate
XR6 net5 net6 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
x6 VDD net5 W U5 VSS passgate
XR7 net6 net7 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
x7 VDD net6 W U6 VSS passgate
XR8 net8 net7 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
x8 VDD net7 W U7 VSS passgate
XR9 net8 net9 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
XR10 net9 net10 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
XR11 net10 net11 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
XR12 net11 net12 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
XR13 net12 net13 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
x9 VDD net8 W U8 VSS passgate
x10 VDD net9 W U9 VSS passgate
x11 VDD net10 W U10 VSS passgate
x12 VDD net11 W U11 VSS passgate
x13 VDD net12 W U12 VSS passgate
XR14 net13 net14 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
x14 VDD net13 W U13 VSS passgate
XR15 net14 net15 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
x15 VDD net14 W U14 VSS passgate
x16 VDD net15 W U15 VSS passgate
XR16 B net15 VSS sky130_fd_pr__res_xhigh_po_0p35 L=32 mult=1 m=1
.ends


* expanding   symbol:  nor3.sym # of pins=6
** sym_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/nor3.sym
** sch_path: /home/htamas/git/ttsky26a-telephone-hybrid/xschem/nor3.sch
.subckt nor3 VDD A B OUT C VSS
*.PININFO VSS:B VDD:B B:I A:I C:I OUT:O
XM2 OUT B VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.65 nf=1 m=1
XM1 OUT A VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.65 nf=1 m=1
XM4 net1 A VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM3 OUT C VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.65 nf=1 m=1
XM5 net2 B net1 VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM6 OUT C net2 VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
.ends

.end
